datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:21][H:20].c1csc(c2scc[n:10]2)n1>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:21].c1csc(c2scc[n+:10]2[H:20])n1 10=20;20,21=21",
"CC(=O)c1ccc([O:21][H:20])c2ncccc12.CC(C)(C)n1cc[n:10]c1>>CC(=O)c1ccc([O-:21])c2ncccc12.CC(C)(C)n1cc[n+:10]([H:20])c1 10=20;20,21=21",
"CNC(=O)C1CCCC[NH:10]1.O=C([O-])CSc1[nH]c2cc3c(cc2[n+:21]1[H:20])CCCC3>>CNC(=O)C1CCCC[NH+:10]1[H:20].O=C([O-])CSc1[nH]c2cc3c(cc2[n:21]1)CCCC3 10=20;20,21=21",
"C1CC[NH:10]C1.FC(F)C[NH2+:21][H:20]>>C1CC[NH+:10]([H:20])C1.FC(F)C[NH2:21] 10=20;20,21=21",
"Cc1c[n:10]c2c(ccc3cccnc32)c1C.Oc1cc2ccccc2[n+:21]([H:20])c1>>Cc1c[n+:10]([H:20])c2c(ccc3cccnc32)c1C.Oc1cc2ccccc2[n:21]c1 10=20;20,21=21",
"Clc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1ccnc1-c1n(C)cc[n:10]1.OC(=C1c2ccccc2-c2ccccc21)[O:21][H:20]>>Cn1ccnc1-c1n(C)cc[n+:10]1[H:20].OC(=C1c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"Brc1nnn[n:21]1[H:20].CCCC1(Br)C(=O)NC(=O)[N-:10]C1=O>>Brc1nnn[n-:21]1.CCCC1(Br)C(=O)NC(=O)[N:10]([H:20])C1=O 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.CSCC[NH2+:21][H:20]>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].CSCC[NH2:21] 10=20;20,21=21",
"Brc1cc2ccccc2[n+:21]([H:20])c1.CCN(CC)c1nc(N)[n:10]c(N)n1>>Brc1cc2ccccc2[n:21]c1.CCN(CC)c1nc(N)[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"C[NH:10]Cc1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](Cc1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[NH2+]CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+]CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1c[n:10]c2c(ccc3cccnc32)c1C.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:21]1([H:20])CCCCC1>>Cc1c[n+:10]([H:20])c2c(ccc3cccnc32)c1C.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:21]1CCCCC1 10=20;20,21=21",
"CNc1nc[n:10]c2scnc12.FCC[NH2+:21][H:20]>>CNc1nc[n+:10]([H:20])c2scnc12.FCC[NH2:21] 10=20;20,21=21",
"COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.O=[N+]([O-])[N-]c1nc[n-:10]n1>>COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.O=[N+]([O-])[N-]c1nc[n:10]([H:20])n1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)OC.O=C([O-])C(CO)[NH+:21](Cc1ccccc1O)[H:20]>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)OC.O=C([O-])C(CO)[NH:21]Cc1ccccc1O 10=20;20,21=21",
"Cc1cccc(C[N:10](C)C)c1O.Fc1ccc([O:21][H:20])c(CN2CCOCC2)c1>>Cc1cccc(C[N+:10](C)(C)[H:20])c1O.Fc1ccc([O-:21])c(CN2CCOCC2)c1 10=20;20,21=21",
"CC(C)(O)C(C(=O)[O:21][H:20])c1ccc(C2CCCCC2)cc1.Oc1ccc(Cl)c2ccc[n:10]c12>>CC(C)(O)C(C(=O)[O-:21])c1ccc(C2CCCCC2)cc1.Oc1ccc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"NCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)CC[NH2+:10][H:20] 10=20;20,21=21",
"C1CC[NH:10]CC1.CN1C=C/C(=[NH+:21]/[H:20])c2ccccc21>>C1CC[NH+:10]([H:20])CC1.CN1C=CC(=[NH:21])c2ccccc21 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].NCC[NH:10]CCCO>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"CC1CC[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1CC[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1ccc(S(=O)(=O)CC[N:10]2CCCCC2)c(OC)c1OC.C[NH2+]CC(=O)[O:21][H:20]>>COc1ccc(S(=O)(=O)CC[N+:10]2([H:20])CCCCC2)c(OC)c1OC.C[NH2+]CC(=O)[O-:21] 10=20;20,21=21",
"CCOC(=O)c1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1.S=C1NC(c2ccccc2)C(=S)[N-:10]1>>CCOC(=O)c1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1.S=C1NC(c2ccccc2)C(=S)[N:10]1[H:20] 10=20;20,21=21",
"C=CC[NH+](CC=C)CCCNC(=O)/C=N/[O:21][H:20].C[C@H](C(=O)N1CCC[C@H]1C(=O)[O-])[NH2:10]>>C=CC[NH+](CC=C)CCCNC(=O)/C=N/[O-:21].C[C@H](C(=O)N1CCC[C@H]1C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Clc1cc([O-:10])cc(Cl)c1Cl.Nc1sc2ccccc2[n+:21]1[H:20]>>Clc1cc([O:10][H:20])cc(Cl)c1Cl.Nc1sc2ccccc2[n:21]1 10=20;20,21=21",
"[H:20][I:21].[S-]c1c2nccnc2nc[n:10]1>>[I-:21].[S-]c1c2nccnc2nc[n+:10]1[H:20] 10=20;20,21=21",
"ClC(Cl)=CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>ClC(Cl)=CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[N+:21](C)([H:20])[C@@H]2CCCC[C@H]21.[NH3+]CCC(=O)NC(Cc1c[n:10]c[nH]1)C(=O)[O-]>>C#C[C@]1(O)C[C@H](C)[N:21](C)[C@@H]2CCCC[C@H]21.[NH3+]CCC(=O)NC(Cc1c[n+:10]([H:20])c[nH]1)C(=O)[O-] 10=20;20,21=21",
"CN1C(=O)N(CC[N+:21]2([H:20])CCOCC2)C(=O)C(C)(C2=CCCCC2)C1=O.C[N:10](C)Cc1cccc(O)c1O>>CN1C(=O)N(CC[N:21]2CCOCC2)C(=O)C(C)(C2=CCCCC2)C1=O.C[N+:10](C)(Cc1cccc(O)c1O)[H:20] 10=20;20,21=21",
